US06114532
4-[(5-(1-carboxymethyl-cyclohexan-1-yl-carbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine
To a solution of 160 mg (4 mmol) of sodium hydroxide in 5 ml water and 20 ml ethanol are added 400 mg (0.8 mmol) of 4-[(5-(1-ethoxycarbonylmethyl-cyclohexan-1-yl-carbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride. After two hours at ambient temperature the solution is evaporated down, the residue is dissolved in water and acidified with glacial acetic acid. The precipitate is suction filtered and dried.

reactant | sodium hydroxide | 4 mmol, 160 mg | [OH-].[Na+]
reactant | 4-[(5-(1-ethoxycarbonylmethyl-cyclohexan-1-yl-carbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride | 0.8 mmol, 400 mg | Cl.C(C)OC(=O)CC1(CCCCC1)C(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1
solvent | water | 5 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[(5-(1-carboxymethyl-cyclohexan-1-yl-carbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine | C(=O)(O)CC1(CCCCC1)C(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1 | C25H28N4O3
